US07795249B2
A mixture of bromo(pyridine-2-yl)zinc (0.5 M in THF, 1.27 mL), ethyl 2-bromo-1,3-thiazole-5-carboxylate (0.063 mL, 0.42 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.02 g, 0.02 mmol) in 1,4-dioxane (3 mL) and water (0.03 mL) was subjected to MWI at 120° C. for 10 min. The reaction mixture was diluted with water and extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered, and concentrated to give ethyl 2-pyridin-2-yl-1,3-thiazole-5-carboxylate (0.12 g) which was used without further purification. LCMS: (FA) ES+ 235.

reactant | bromo(pyridine-2-yl)zinc | 0.5 M, 1.27 mL | Br[Zn]C1=NC=CC=C1
reactant | ethyl 2-bromo-1,3-thiazole-5-carboxylate | 0.42 mmol, 0.063 mL | BrC=1SC(=CN1)C(=O)OCC | C6H6BrNO2S
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.03 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-pyridin-2-yl-1,3-thiazole-5-carboxylate | 0.12 g | N1=C(C=CC=C1)C=1SC(=CN1)C(=O)OCC | C11H10N2O2S
